US07169737B2
In a 200 ml four-necked flask equipped with a stirrer and a thermometer, 2.52 g (20 mmol) of 4-mercaptophenol, 1.32 g (20 mmol) of 85% potassium hydroxide and 50 ml of methanol were added at normal temperature. After confirming that potassium hydroxide had been dissolved, the inner temperature was cooled to 10° C. and 3.95 g (20 mmol) of N-benzoyl-chloroacetamide was added, followed by stirring at normal temperature for 3 hours. After the completion of the reaction, the reaction solution was acidified with hydrochloric acid and 50 ml of water was added, and then the deposited crystals were collected by filtration to obtain 5.0 g of N-benzoyl-(4-hydroxyphenylthio)acetamide. The yield was 87% and the melting point was 149–151° C.

reactant | 4-mercaptophenol | 20 mmol, 2.52 g | SC1=CC=C(C=C1)O | C6H6OS
reactant | potassium hydroxide | 20 mmol, 1.32 g | [OH-].[K+]
reactant | N-benzoyl-chloroacetamide | 20 mmol, 3.95 g | C(C1=CC=CC=C1)(=O)NC(CCl)=O | C9H8ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 50 ml | O | H2O
solvent | methanol | 50 ml | CO | CH4O
product | N-benzoyl-(4-hydroxyphenylthio)acetamide | 5.0 g, yield was 87% | C(C1=CC=CC=C1)(=O)NC(CSC1=CC=C(C=C1)O)=O | C15H13NO3S
